US09233922B2
[PdCl(π-allyl)]2 (15.6 mg, 0.1 mol %) and cBRIDP (60.2 mg, 0.4 mol %) were placed into a 50 mL, two-necked, round bottomed flask equipped a gas inlet, and the flask was evacuated and filled with nitrogen. Subsequently, to the mixture was added dehydrated THF (11 mL) to prepare a catalyst solution. A 200 mL, four-necked, round-bottomed flask equipped with a Teflon® coated magnetic stirring bar, condenser, dropping funnel, thermometer, and a gas inlet was evacuated and filled with nitrogen. Indole (5.0 g, 42.7 mmol, 1.0 equivalent) and dehydrated toluene (55 mL) were charged into the flask, and the mixture was cooled to 5° C. using an ice bath. To the mixture was added a THF solution of tert-butylmagnesium chloride (tBuMgCl) (1.02 mol/L, 46.0 mL, 47.0 mmol, 1.1 equivalents) (containing 42.0 mL of THF) dropwise via the dropping funnel at such a rate that the temperature of the reaction solution was kept at 15° C. or lower. Subsequently, to the solution were added chlorobenzene (4.8 mL, 47.0 mmol, 1.1 equivalents) and the catalyst solution (11 mL) successively, and the solution was stirred for 15 minutes under reflux. After cooling the reaction mixture to room temperature, to the mixture were added water (30 mL) and the aqueous layer was separated off. The organic layer was concentrated under reduced pressure to give oily residue, which was purified by silica gel column chromatography (eluent: n-hexane/toluene) to afford 7.9 g of phenylindole as a viscous oil.

reactant | Indole | 42.7 mmol, 5.0 g, 1.0 equivalent | N1C=CC2=CC=CC=C12 | C8H7N
reactant | toluene | 55 mL | C1(=CC=CC=C1)C | C7H8
reactant | tert-butylmagnesium chloride | 47.0 mmol, 1.02 mol/L, 46.0 mL, 1.1 equivalents | C(C)(C)(C)[Mg]Cl
reactant | chlorobenzene | 47.0 mmol, 4.8 mL, 1.1 equivalents | ClC1=CC=CC=C1 | C6H5Cl
catalyst | cBRIDP | 60.2 mg | CC1(CC1(C2=CC=CC=C2)C3=CC=CC=C3)P(C(C)(C)C)C(C)(C)C | C24H33P
solvent | water | 30 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | phenylindole | 7.9 g, yield: 96.0% | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
